US07312225B2
8d) Production of 2-Methoxy-4-nitro-benzenesulfonamide
8.1 g (28.1 mmol) of N-tert-butyl-2-methoxy-4-nitro-benzenesulfonamide is mixed with 350 ml of trifluoroacetic acid and stirred for 20 hours at room temperature. The trifluoroacetic acid is drawn off, and the remaining residue is then digested with ethyl acetate. 5.0 g (21.6 mmol, corresponding to 77% of theory) of the product is obtained. The ethyl acetate phase is concentrated by evaporation, and the residue that is obtained is purified by chromatography (DCM/EtOH 95:5, Flashmaster II). Another 0.84 g (3.6 mmol, corresponding to 13% of theory) of the product is obtained.

reactant | N-tert-butyl-2-methoxy-4-nitro-benzenesulfonamide | 28.1 mmol, 8.1 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C11H16N2O5S
reactant | trifluoroacetic acid | 350 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-4-nitro-benzenesulfonamide | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N | C7H8N2O5S
